US08729263B2
Following GENERAL METHOD 3-1 for methoxy deprotection with thiophenol, 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(piperidin-4-yloxy)pyridazine (70 mg, 0.20 mmol) was treated with thiophenol (27 mg, 0.24 mmol) and K2CO3 (25 mg, 0.18 mmol) in NMP (1.3 mL) for 15 min at 190° C. HPLC purification (0.1% trifluoroacetic acid as modifier) afforded 2-(6-(piperidin-4-yloxy)pyridazin-3-yl)-5-(1H-pyrazol-1-yl)phenol (12 mg, 18%) as a yellow solid. LCMS Rt=0.50 min (LCMS method Q); [M+H]: 338.16; 1H NMR (400 MHz, DMSO-d6) δ 13.01 (bs, 1H), 8.53 (d, J=2.5 Hz, 1H), 8.46 (bs, 2H), 8.45 (d, J=9.5 Hz, 1H), 7.50 (d, J=2.0 Hz, 1H), 7.47 (dd, J=8.5, 2.5 Hz, 2H), 7.44 (d, J=9.5 Hz, 1H), 6.51-6.62 (m, 1H), 5.51 (tt, J=7.5, 3.5 Hz, 1H), 3.33 (br. s, 2H), 3.20 (br. s, 2H), 2.18-2.31 (m, 2H), 2.01 (ddt, J=13.5, 8.5, 4.0 Hz, 2H).

reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(piperidin-4-yloxy)pyridazine | 0.20 mmol, 70 mg | COC1=C(C=CC(=C1)N1N=CC=C1)C=1N=NC(=CC1)OC1CCNCC1 | C19H21N5O2
reactant | thiophenol | 0.24 mmol, 27 mg | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.18 mmol, 25 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 1.3 mL | CN1CCCC1=O | C5H9NO
product | 2-(6-(piperidin-4-yloxy)pyridazin-3-yl)-5-(1H-pyrazol-1-yl)phenol | 12 mg, 18% | N1CCC(CC1)OC1=CC=C(N=N1)C1=C(C=C(C=C1)N1N=CC=C1)O | C18H19N5O2
